US04182758
A mixture of 3-(N-hydroxyamino)propylphosphonic acid (820 mg), bis(trimethylsilyl)acetamide (5.0 g), triethylamine (1.01 g) and dichloromethane (40 ml) was stirred at ambient temperature for 2.5 hours. The reaction mixture was cooled to 0°-5° C. and mesyl chloride (1.15 g) was added dropwise with stirring. The reaction mixture was stirred for 1.25 hours and then concentrated under reduced pressure to give a residue, which was dissolved in water (50 ml). The solution was subjected to a column chromatography using activated charcoal. After the column was washed with water, the object compound was eluted with 70% aqueous acetone. The eluate was collected and evaporated to dryness to give powdery 3-(N-hydroxy-N-mesylamino)propylphosphonic acid (320 mg). This powder was dissolved in ethanol (20 ml). To the solution was added conc. aqueous ammonia (0.4 ml) to give precipitates, which were separated by filtration and dried to give crystalline monomammonium salt of 3-(N-hydroxy-N-mesylamino)propylphosphonic acid (220 mg). Mp 103°-105° C. (dec.).

reactant | 3-(N-hydroxyamino)propylphosphonic acid | 820 mg | ONCCCP(O)(O)=O | C3H10NO4P
reactant | bis(trimethylsilyl)acetamide | 5.0 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | mesyl chloride | 1.15 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | charcoal | C | CH4
solvent | water | 50 ml | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
product | 3-(N-hydroxy-N-mesylamino)propylphosphonic acid | 320 mg | ON(S(=O)(=O)C)CCCP(O)(O)=O | C4H12NO6PS
